US07671072B2
A solution of trimethylaluminum in heptane (2.0 M, 19.5 mL) was added slowly to a solution of 2-tert-butyl-5-(3,3-dimethoxy-cyclobutyl)-2H-pyrazol-3-ylamine (8.98 g) in CH2Cl2 (60 mL) at room temperature. After 15 min, a solution of 2-methyl-2-pyridin-2-yl-propionic acid ethyl ester (6.85 g) in CH2Cl2 (60 mL) was added. The reaction mixture was heated to reflux overnight. Saturated aqueous NH4Cl solution was added and the mixture was extracted with CH2Cl2 (2×). The combined organic layers were dried over Na2SO4 and concentrated to afford N-[2-tert-butyl-5-(3,3-dimethoxy-cyclobutyl)-2H-pyrazol-3-yl]-2-pyridin-2-yl-isobutyramide as an oil that was used without further purification.

reactant | trimethylaluminum | C[Al](C)C
reactant | 2-tert-butyl-5-(3,3-dimethoxy-cyclobutyl)-2H-pyrazol-3-ylamine | 8.98 g | C(C)(C)(C)N1N=C(C=C1N)C1CC(C1)(OC)OC | C13H23N3O2
reactant | 2-methyl-2-pyridin-2-yl-propionic acid ethyl ester | 6.85 g | C(C)OC(C(C)(C1=NC=CC=C1)C)=O | C11H15NO2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | heptane | 2.0 M, 19.5 mL | CCCCCCC | C7H16
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
product | N-[2-tert-butyl-5-(3,3-dimethoxy-cyclobutyl)-2H-pyrazol-3-yl]-2-pyridin-2-yl-isobutyramide | C(C)(C)(C)N1N=C(C=C1NC(C(C)(C)C1=NC=CC=C1)=O)C1CC(C1)(OC)OC | C22H32N4O3
